US08133908B2
Description 28: 1,1-dimethylethyl (1S,4S,6S)-4-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]-3-azabicyclo[4.1.0]heptane-3-carboxylate (D28)
1,1-dimethylethyl (1S,4S,6S)-4-(hydroxymethyl)-3-azabicyclo[4.1.0]heptane-3-carboxylate D27 (310 mg), triphenylphosphine (1073 mg, 4.09 mmol) and phthalimide (502 mg, 3.41 mmol) were collected together and dissolved in THF (7 ml). The mixture was brought to 50° C. and then DIAD (0.796 ml, 4.09 mmol) was added dropwise. The mixture was stirred for 1 hour at 50° C. then 1 ml of water were added. Volatiles were removed in vacuum and the resulting crude was purified by silica gel chromatography (column size 10 g) using Cy/EtOAc=8:2 to Cy/EtOAc=5:5 to EtOAc 100%. It was recovered the title compound D28 (488 mg). UPLC: (Acid Final_QC): rt=0.80 minutes, peaks observed: 357 (M+1). C20H24N2O4 requires 356.

reactant | 1,1-dimethylethyl (1S,4S,6S)-4-(hydroxymethyl)-3-azabicyclo[4.1.0]heptane-3-carboxylate | OC[C@H]1N(C[C@H]2C[C@H]2C1)C(=O)OC(C)(C)C | C12H21NO3
reactant | triphenylphosphine | 4.09 mmol, 1073 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phthalimide | 3.41 mmol, 502 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | DIAD | 4.09 mmol, 0.796 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 7 ml | C1CCOC1 | C4H8O
solvent | water | 1 ml | O | H2O
product | 1,1-dimethylethyl (1S,4S,6S)-4-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]-3-azabicyclo[4.1.0]heptane-3-carboxylate | O=C1N(C(C2=CC=CC=C12)=O)C[C@H]1N(C[C@H]2C[C@H]2C1)C(=O)OC(C)(C)C | C20H24N2O4
